US07994203B2
Step 1: 1-(2,4-Dichloro-phenyl)-2-(5′-methyl-3-trifluoromethyl-2′H-[1,4′]bipyrazolyl-3′-yloxy)-propan-1-one
To a stirred solution of 5′-methyl-3-trifluoromethyl-2′H-[1,4′]bipyrazolyl-3′-ol (Intermediate KA)(270 mg, 1.163 mmol) and cesium carbonate (379 mg, 1.163 mmol) in DMF (2.684 ml) at 50° C. is added 2-bromo-1-(2,4-dichloro-phenyl)-propan-1-one (Intermediate AA) (328 mg, 1.163 mmol) slowly in DMF (1.789 ml). The reaction is stirred at 50° C. for 1 hour before cooling to RT. 2M Na2CO3 (100 ml) is added and the crude product is extracted with EtOAc (2×100 ml). The organic phases are combined, washed with brine, dried over MgSO4 and concentrated in vacuo. The crude product is purified by ISCO combiflash chromatography, eluting with 0 to 100% (iso-hexane/EtOAc) on a 24 g SiO2 column to give the title compound as a light brown oil; MS: m/z 433.24 [M+H]+

reactant | 5′-methyl-3-trifluoromethyl-2′H-[1,4′]bipyrazolyl-3′-ol | 1.163 mmol, 270 mg | CC=1C(=C(NN1)O)N1N=C(C=C1)C(F)(F)F | C8H7F3N4O
reactant | cesium carbonate | 1.163 mmol, 379 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-bromo-1-(2,4-dichloro-phenyl)-propan-1-one | 1.163 mmol, 328 mg | BrC(C(=O)C1=C(C=C(C=C1)Cl)Cl)C | C9H7BrCl2O
reactant | Na2CO3 | 2M, 100 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 2.684 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1.789 ml | CN(C)C=O | C3H7NO
product | 1-(2,4-Dichloro-phenyl)-2-(5′-methyl-3-trifluoromethyl-2′H-[1,4′]bipyrazolyl-3′-yloxy)-propan-1-one | ClC1=C(C=CC(=C1)Cl)C(C(C)OC=1NN=C(C1N1N=C(C=C1)C(F)(F)F)C)=O | C17H13Cl2F3N4O2
